US09216993B2
200 mg of methyl 6-methoxy-5-methyl-1H-indole-2-carboxylate (1 mmol) was heated at 80 degrees in a sealed tube with 2 mL of 7M ammonia in methanol. After one week reaction the solvent evaporated to produce 202 mg of 6-methoxy-5-methyl-1H-indole-2-carboxamide that was used without purification in the next step.

reactant | methyl 6-methoxy-5-methyl-1H-indole-2-carboxylate | 1 mmol, 200 mg | COC1=C(C=C2C=C(NC2=C1)C(=O)OC)C | C12H13NO3
reactant | ammonia | 7M, 2 mL | N | H3N
solvent | methanol | CO | CH4O
product | 6-methoxy-5-methyl-1H-indole-2-carboxamide | 202 mg | COC1=C(C=C2C=C(NC2=C1)C(=O)N)C | C11H12N2O2
